US05210266
3-Amino-4-(1-pyrrolidinyl)benzoic acid.hemioxalate (5.0 g) is suspended in methanol (40 ml) and thereto is added p-toluenesulfonic acid (2.5 g), and the mixture is refluxed for 3 hours. Mathanol is distilled off under reduced pressure, and the residue is extracted with ethyl acetate (100 ml). The extract is washed with 5% aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution in this order, dried over anhydrous sodium sulfate, and ethyl acetate is distilled off to give methyl 3-amino-4-(1-pyrrolidinyl)benzoate (3.4 g).

reactant | 3-Amino-4-(1-pyrrolidinyl)benzoic acid | NC=1C=C(C(=O)O)C=CC1N1CCCC1 | C11H14N2O2
reactant | p-toluenesulfonic acid | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 40 ml | CO | CH4O
product | methyl 3-amino-4-(1-pyrrolidinyl)benzoate | 3.4 g | NC=1C=C(C(=O)OC)C=CC1N1CCCC1 | C12H16N2O2
